US04053296
58 g (0.15 mole) of N,N-dimethylamino-methylferrocene methoidoide were added to a solution of 57 g (0.88 mole) of potassium cyanide in 570 ml of water and the mixture was heated to the boil, whereupon the solid dissolved. The evolution of trimethylamine started within a few minutes, while at the same time an oil which was volatile with steam separated out. After stirring for two hours under reflux, the mixture was cooled to room temperature, whereupon the oily product solidified. The solid was separated off and the residual solution was extracted with ether. The combined organic phases were washed with water and, after drying over sodium sulfate, concentrated under reduced pressure. The residue was recrystallized from 200 ml of hexane. In this way 26 g (76.9% of theory) of cyanomethylferrocene with a melting point of 82° to 83° C were obtained.

reactant | N,N-dimethylamino-methylferrocene | 0.15 mole, 58 g | CN(C)C=1[C-](C=CC1)C.[CH-]1C=CC=C1.[Fe+2]
reactant | potassium cyanide | 0.88 mole, 57 g | [C-]#N.[K+]
reactant | trimethylamine | CN(C)C | C3H9N
solvent | water | 570 ml | O | H2O
product | cyanomethylferrocene | 26 g, 76.9% | C(#N)C[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C7H6N.C5H5.Fe/c8-6-5-7-3-1-2-4-7;1-2-4-5-3-1;/h1-4H,5H2;1-5H;/q2*-1;+2
